US08383644B2
(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (50 mg) was coupled with (S)-2-amino-3-(4′-chloro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride (31 mg) according to General Procedure L to give (S)-8-[(S)-2-(4′-chloro-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (39 mg). This intermediate was deprotected as described in General Procedure C to give (S)-3-(4′-chloro-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester hydrochloride salt. This compound was further reacted with 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride to furnish (S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-chloro-biphenyl-4-yl)-propionic acid methyl ester according to General Procedure E. This compound, upon reaction with ethyl iodide and K2CO3 in DMF, gave (S)-2-({(S)-7-[2-(acetyl-ethyl-amino)-5-methyl-thiazole-4-sulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-chloro-biphenyl-4-yl)-propionic acid methyl ester according to General Procedure O. This product (15 mg) was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 950.

reactant | (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2CC1C(=O)O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
reactant | (S)-2-amino-3-(4′-chloro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 31 mg | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)N)=O
product | (S)-8-[(S)-2-(4′-chloro-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C46H43Cl3N2O8
